US03974286
2,6-diethyl-s-triazolo[5,1-b]benzothiazole
The preferred compounds of this invention are 5-methyl-s-triazolo[5,1-b]benzothiazole, 5-fluoro-s-triazolo[5,1-b]-benzothiazole, s-triazolo[5,1-b]benzothiazole, 5-chloro-s-triazolo[5,1-b]benzothiazole, 5-methoxy-s-triazolo[5,1-b]benzothiazole, and 2,5-dimethyl-s-triazolo[5,1-b]benzothiazole.

reactant | 5-methyl-s-triazolo[5,1-b]benzothiazole | CC1=CC=CC=2N3C(SC21)=NC=N3 | C9H7N3S
reactant | 5-fluoro-s-triazolo[5,1-b]-benzothiazole | FC1=CC=CC=2N3C(SC21)=NC=N3 | C8H4FN3S
reactant | s-triazolo[5,1-b]benzothiazole | N1=CN=C2SC3=C(N21)C=CC=C3 | C8H5N3S
reactant | 5-chloro-s-triazolo[5,1-b]benzothiazole | ClC1=CC=CC=2N3C(SC21)=NC=N3 | C8H4ClN3S
reactant | 5-methoxy-s-triazolo[5,1-b]benzothiazole | COC1=CC=CC=2N3C(SC21)=NC=N3 | C9H7N3OS
reactant | 2,5-dimethyl-s-triazolo[5,1-b]benzothiazole | CC1=NN2C(SC3=C2C=CC=C3C)=N1 | C10H9N3S
product | 2,6-diethyl-s-triazolo[5,1-b]benzothiazole | C(C)C1=NN2C(SC3=C2C=CC(=C3)CC)=N1 | C12H13N3S
